US08754100B2
Synthesis of 1-methoxy-2-methyl-4-(2,2,2-trifluoro-1,1-dimethylethyl)benzene
To an ice-cold solution of 1,1,1-trifluoro-2-(4-methoxy-3-methylphenyl)-propane-2-ol (440 mg) in dichloromethane (20 ml) were added titanium tetrachloride (357 mg). Under the same temperature, it was stirred for 2 hours. Ice-cold water and dichloromethane were added to the organic layer and the organic layer was separated. The obtained organic layer was washed with saturated sodium bicarbonate solution and dried over anhydrous potassium carbonate. After removing the drying agent, the organic layer was concentrated under reduced pressure. After the residue was dissolved in dichloro methane (15 ml), it was cooled at −70° C. and titanium tetrachloride (302 mg) and dimethylzinc (1M, n-hexane solution, 3.18 ml) was added. The mixture was brought back to room temperature and stirred for 3 hours. Ice-cold water and dichloromethane were added to the solution and the organic layer was separated. The obtained organic layer was washed with saturated sodium bicaronate solution and then dried over anhydroous magnesium sulfate. After removing the drying agent, the organic layer was concentrated under reduced pressure.

reactant | 1,1,1-trifluoro-2-(4-methoxy-3-methylphenyl)-propane-2-ol | 440 mg | FC(C(C)(O)C1=CC(=C(C=C1)OC)C)(F)F | C11H13F3O2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 357 mg | [Ti](Cl)(Cl)(Cl)Cl
product | 1-methoxy-2-methyl-4-(2,2,2-trifluoro-1,1-dimethylethyl)benzene | COC1=C(C=C(C=C1)C(C(F)(F)F)(C)C)C | C12H15F3O
